US05068300
E-4-(Carbo-tert.-butoxy)-4'-(4-carbo-tert.-butoxystyryl)tolan
A mixture of 13.02 g of 4-(4-carbo-tert.-butoxyphenyl)-2-methyl-3-butyn-2-ol, 17.97 g of 4-bromo-4'-carbo-tert.-butoxystilbene, 0.93 g of triphenylphosphine. 0.34 g of benzyltriethylammonium chloride, 175 mg of bis(triphenylphosphine)palladium(II) chloride and 175 mg of copper(I) iodide in 70 ml of toluene and 36 ml of 5,5N NaOH is vigorously stirred under reflux for 48 hours. After the addition of 250 ml of saturated ammonium chloride solution, the reaction product is extracted with methylene chloride, dried and concentrated by evaporation.

reactant | 4-(4-carbo-tert.-butoxyphenyl)-2-methyl-3-butyn-2-ol | 13.02 g | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C#CC(C)(O)C | C16H20O3
reactant | 4-bromo-4'-carbo-tert.-butoxystilbene | 17.97 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C19H19BrO2
reactant | triphenylphosphine | 0.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
catalyst | benzyltriethylammonium chloride | 0.34 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 5,5N, 36 ml | [OH-].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 175 mg | [Cu]I
product | E-4-(Carbo-tert.-butoxy)-4'-(4-carbo-tert.-butoxystyryl)tolan | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)C(=O)OC(C)(C)C | C32H32O4
